US07288541B2
To a solution of 0.13 g (0.23 mmol) of (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (1S,2S)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate & (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (1S,2R)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate in 6 mL of chloroform was added 42 mg (0.1 mmol) of Dess-Martin periodinane, and the reaction mixture was stirred at room temperature for 1.25 h. The mixture was diluted with ethyl acetate and saturated aqueous sodium thiosulfate solution. The layers were mixed vigorously, and then a saturated aqueous sodium bicarbonate solution was added. The layers were separated, and the organic extract was dried over anhydrous magnesium sulfate and concentrated. The residue was purified by silica gel column chromatography eluting with a methanol:chloroform solution (1:9) to yield 64 mg (50%) of (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (1S)-1-methyl-2-oxo-3-[(2-pyridinylsulfonyl)amino]propylcarbamate ES-LCMS m/z 556 (M+H)+ retention time=3.66 min. HRMS C23H27Cl2N5O5S m/z 556.1188 (M+H)Cal; 556.1193 (M+H)Obs.

reactant | (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (1S,2S)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | 0.23 mmol, 0.13 g | O[C@H]([C@H](C)NC(O[C@@H](C(C)(C)C)CN1C=NC2=C1C=C(C(=C2)Cl)Cl)=O)CNS(=O)(=O)C2=NC=CC=C2 | C23H29Cl2N5O5S
reactant | (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (1S,2R)-2-hydroxy-1-methyl-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | O[C@@H]([C@H](C)NC(O[C@@H](C(C)(C)C)CN1C=NC2=C1C=C(C(=C2)Cl)Cl)=O)CNS(=O)(=O)C2=NC=CC=C2 | C23H29Cl2N5O5S
reactant | Dess-Martin periodinane | 0.1 mmol, 42 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | 6 mL | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
product | (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (1S)-1-methyl-2-oxo-3-[(2-pyridinylsulfonyl)amino]propylcarbamate | 64 mg, 50% | C[C@@H](C(CNS(=O)(=O)C1=NC=CC=C1)=O)NC(O[C@@H](C(C)(C)C)CN1C=NC2=C1C=C(C(=C2)Cl)Cl)=O | C23H27Cl2N5O5S
